US08466296B2
H. Alternative Preparation of [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]ethanol
A 500 mL three necked Morton flask equipped with magnetic stir bar, thermocouple, gas inlet adapter and gas outlet adapter is charged with (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane (20.00 g, 66.4 mmol), sodium bicarbonate (5.58 g, 66.4 mmol), palladium (5% on carbon, 50% water, 3 g), ethanol (136 mL) and NMP (24 mL). The flask is immersed in an oil bath and heated to 50-52° C. (internal) to effect solution. The stirring is stopped and the flask is flushed with hydrogen gas (300 mL). Stirring is resumed and hydrogen gas is titrated into the solution [1550 mL (69.2 mmol) over 5.5 h]. Heating is discontinued, and a flow of nitrogen is used to sweep the head space for 20 min. Once the solution is cooled to 25° C., the mixture is filtered through a pad of celite and the filter cake is washed with ethanol (50 mL). The resulting solution is concentrated by rotary evaporation removing ˜200 mL of ethanol. The solution is transferred to a separatory funnel and i-PrOAc (220 mL) is added followed by water (200 mL). The mixture is thoroughly shaken and the bottom aqueous layer is drained and discarded. The product containing organic layer is washed with water (3×50 mL), and transferred to a 500 mL three necked flask equipped with a magnetic stir bar, thermocouple, heating mantel, and a distillation head. The i-PrOAc is removed by distillation at atmospheric pressure. Once ˜180 mL has been collected, pyridine (80 mL) is added and the distillation is continued until the head temperature is 108° C. The solution is allowed to cool to room temperature and used directly as illustrated in Schemes I and II, and as described in the Examples below.

reactant | (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane | 66.4 mmol, 20.00 g | C(C1=CC=CC=C1)OC1=C(OC[C@@H]2OC2)C=CC(=C1)[N+](=O)[O-] | C16H15NO5
reactant | sodium bicarbonate | 66.4 mmol, 5.58 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 136 mL | C(C)O | C2H6O
catalyst | palladium | 3 g | [Pd] | Pd
solvent | NMP | 24 mL | CN1CCCC1=O | C5H9NO
product | [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]ethanol | [N+](=O)([O-])C=1C=CC2=C(O[C@@H](CO2)C(C)O)C1 | C10H11NO5
